US07709466B2
1.88 g DMAP (dimethylaminopyridine) and 28.5 g di-tert-butyl dicarbonate are added to a solution of 10.3 g 3-methylindole in 300 ml dichloromethane and the solution is stirred for 4 h at room temperature. Evaporation of the solvent and purification of the crude product on silica gel gives 16.5 g 3-methyl-indole-1-carboxylic acid tert-butyl ester.

reactant | DMAP | 1.88 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | di-tert-butyl dicarbonate | 28.5 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 3-methylindole | 10.3 g | CC1=CNC2=CC=CC=C12 | C9H9N
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
product | 3-methyl-indole-1-carboxylic acid tert-butyl ester | 16.5 g | C(C)(C)(C)OC(=O)N1C=C(C2=CC=CC=C12)C | C14H17NO2
